US04139703
7-[[2-Carbethoxy-2-(1H-indol-1-yl)acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, tert-butyl ester
The monoethyl ester of 1H-indol-1-ylmalonic acid (3.96 mmole), (3.96 mmole) of 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, tert-butyl ester and (3.96 mmole) of N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline (EEDQ) are mixed in 50 ml of hydrocarbon stabilized chloroform. The mixture is stirred overnight at room temperature under a nitrogen atmosphere. The reaction mixture is diluted with chloroform, washed with dilute aqueous hydrochloric acid, dilute aqueous sodium bicarbonate and water. The chloroform solution is dried over magnesium sulfate, filtered and evaporated to dryness to give the title compound.

reactant | 1H-indol-1-ylmalonic acid | 3.96 mmole | N1(C=CC2=CC=CC=C12)C(C(=O)O)C(=O)O | C11H9NO4
reactant | 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, tert-butyl ester | NC1C2SCC(=C(N2C1=O)C(=O)OC(C)(C)C)C | C12H18N2O3S
reactant | N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 3.96 mmole | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-[[2-Carbethoxy-2-(1H-indol-1-yl)acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, tert-butyl ester | C(=O)(OCC)C(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)OC(C)(C)C)C)N1C=CC2=CC=CC=C12 | C25H29N3O6S
